US07498337B2
1-{5-(2-fluoropyridin-3-yl)-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}-N-methylmethanamine 0.5 fumarate
To a solution of tert-butyl ({5-(2-fluoropyridin-3-yl)-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate (86 mg) in ethanol (2 mL) was added a 4 mol/L hydrogen chloride-ethyl acetate solution (2 mL) at room temperature. The mixture was stirred for 2 hr, and concentrated under reduced pressure. The residue was basified with a saturated aqueous sodium hydrogencarbonate solution, and, the mixture was extracted with ethyl acetate. The extract was washed successively with a saturated aqueous sodium hydrogencarbonate solution, water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give a free salt of the title compound as a pale-yellow oil. The obtained free salt was dissolved in ethyl acetate (2 mL) and added to a solution (2 mL) of fumaric acid (11.3 mg) in ethanol, and the solvent was evaporated under reduced pressure. The residue was recrystallized from ethanol to give the title compound as colorless crystals (yield 14 mg, 18%).

reactant | tert-butyl ({5-(2-fluoropyridin-3-yl)-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}methyl)methylcarbamate | 86 mg | FC1=NC=CC=C1C1=CC(=CN1S(=O)(=O)C=1C=NC(=CC1)C)CN(C(OC(C)(C)C)=O)C | C22H25FN4O4S
reactant | hydrogen chloride-ethyl acetate | 4 mol/L, 2 mL | C(C)(=O)OCC.Cl
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | 1-{5-(2-fluoropyridin-3-yl)-1-[(6-methylpyridin-3-yl)sulfonyl]-1H-pyrrol-3-yl}-N-methylmethanamine | FC1=NC=CC=C1C1=CC(=CN1S(=O)(=O)C=1C=NC(=CC1)C)CNC | C17H17FN4O2S
